US06255307B1
1. 2,3,5-Trichlorobromobenzene
Sodium nitrite (3.88 g, 0.056 mole) was added in portions to concentrated sulphuric acid (28.16 ml) stirred below 10° C. A solution of 2-bromo-4,6-dichloroaniline (12 g, 0.05 mole, Lancaster) in glacial acetic acid (126 ml) was added maintaining the temperature below 10° C. The mixture was stirred below 10° C. for 1 hr and then slowly added to a stirred solution of cuprous chloride (10.11 g, 0.10 mole) in concentrated hydrochloric acid (101.05 ml) at room temperature. The mixture was then stirred at room temperature for 17 hrs. The product was filtered, washed with water (3×50 ml), dissolved in chloroform (150 ml), dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated in vacuo to give the desired product. Yield 10 g (77%), M.p. 55-57° C.

reactant | Sodium nitrite | 0.056 mole, 3.88 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | 28.16 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-bromo-4,6-dichloroaniline | 0.05 mole, 12 g | BrC1=C(N)C(=CC(=C1)Cl)Cl | C6H4BrCl2N
reactant | hydrochloric acid | 101.05 ml | Cl | ClH
solvent | acetic acid | 126 ml | C(C)(=O)O | C2H4O2
product | 2,3,5-Trichlorobromobenzene | ClC1=C(C=C(C=C1Cl)Cl)Br | C6H2BrCl3
